**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Common Mode Power Line Choke 
* Matchcode:              WE-LPCC
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-01-25
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 7448680100_450u 1 2 3 4
R1 N004 4 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 1 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 3 N010 {L1}
R14 3 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 2 N017 {L1}
L14 N017 N016 {L2}
R16 3 N003 {R2}
R17 2 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 2 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.0096
.param L1=186.6566u
.param L2=106.6709u
.param L3=26.9354u
.param L4=141.7856u
.param L5=48.3666u
.param C1=10.1272p
.param C2=781.4503f
.param Rs1=1.4173k
.param Rs2=956.7108
.param Rs3=420.0542
.param Rs4=894.3996
.param Rs5=2.1857k
.param R2=27.3075
.param dL3=0.77218u
.param dL4=21.959n
.param dC3=3.1819p
.param dC4=3.1126n
.param dR3=0.07618
.param dR4=785.6750
.param dR5=950.96991
.param dR6=1097.3496
.param ck=0.001pF
.backanno
.ends 7448680100_450u 
*****************
.subckt 7448680120_330u 1 2 3 4
R1 N004 4 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 1 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 3 N010 {L1}
R14 3 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 2 N017 {L1}
L14 N017 N016 {L2}
R16 3 N003 {R2}
R17 2 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 2 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.006
.param L1=101.8334u
.param L2=81.4592u
.param L3=118.3726u
.param L4=22.3151u
.param L5=29.6672u
.param C1=12.8552p
.param C2=1.6406p
.param Rs1=1.0747k
.param Rs2=723.1736
.param Rs3=802.2498
.param Rs4=165.5792
.param Rs5=1.6509k
.param R2=10.8505
.param dL3=604.7153n
.param dL4=33.2304n
.param dC3=3.3790p
.param dC4=10.1973u
.param dR3=805.5182m
.param dR4=687.3394
.param dR5=1.9795
.param dR6=2.1449k
.param ck=0.001pF
.backanno
.ends 7448680120_330u
**************
.subckt 7448680140_230u 1 2 3 4
R1 N004 4 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 1 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 3 N010 {L1}
R14 3 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 2 N017 {L1}
L14 N017 N016 {L2}
R16 3 N003 {R2}
R17 2 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 2 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.0036
.param L1=68.0822u
.param L2=5.6476u
.param L3=107.0514u
.param L4=20.4558u
.param L5=13.9909u
.param C1=14.9741p
.param C2=1.2984p
.param Rs1=808.0625
.param Rs2=60.3659
.param Rs3=756.7498
.param Rs4=175.2872
.param Rs5=1.1168k
.param R2=26.3563
.param dL3=434.5841n
.param dL4=35.9028n
.param dC3=3.1759p
.param dC4=255.4105n
.param dR3=635.0838m
.param dR4=559.5004
.param dR5=790.6938m
.param dR6=381.1303
.param ck=0.001pF
.ends 7448680140_230u
***************
.subckt 7448680180_150u 1 2 3 4
R1 N004 4 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 1 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 3 N010 {L1}
R14 3 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 2 N017 {L1}
L14 N017 N016 {L2}
R16 3 N003 {R2}
R17 2 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 2 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.0019
.param L1=250.1028u
.param L2=127.3189u   
.param L3=312.6407p
.param L4=592.5131f
.param L5=6.1743u
.param C1=16.5290p
.param C2=1.3685p
.param Rs1=161.4348m
.param Rs2=1.2001k
.param Rs3=10.8326
.param Rs4=241.7301m
.param Rs5=715.4628
.param R2=239.7810m
.param dL3=305.0774n
.param dL4=1.5633n
.param dC3=2.8918p
.param dC4=217.3333p
.param dR3=10.2145
.param dR4=449.5842
.param dR5=2.2290
.param dR6=2.3771
.param ck=0.001pF
.backanno
.ends 7448680180_150u 
**********
.subckt 7448680200_120u 1 2 3 4
R1 N004 4 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 1 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 3 N010 {L1}
R14 3 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 2 N017 {L1}
L14 N017 N016 {L2}
R16 3 N003 {R2}
R17 2 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 2 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.0014
.param L1=220.0044u
.param L2=99.6829u  
.param L3=312.5714p
.param L4=592.4789f
.param L5=4.7564u
.param C1=21.2705p
.param C2=1.4336p
.param Rs1=161.5025m
.param Rs2=860.6861
.param Rs3=10.8325
.param Rs4=241.6464m
.param Rs5=575.9755
.param R2=239.7642m
.param dL3=236.7751n
.param dL4=1.2650n
.param dC3=2.6470p
.param dC4=197.2951p
.param dR3=10.2125
.param dR4=410.1803
.param dR5=2.2290
.param dR6=2.3772
.param ck=0.001pF
.backanno
.ends 7448680200_120u